US05102890
3-(2,6-Dimethylpiperdino)propionic acid hydrochloride may be obtained by working according to the method described in Example 4 for the preparation of 1-methyl-3-piperidinecarboxylic acid hydrochloride, but starting with ethyl 3-(2,6-dimethylpiperidino)propionate hydrochloride (12.5 g) and 6N aqueous hydrochloric acid solution (35 cc). 3-(2,6-Dimethylpiperidino)propionic acid hydrochloride, m.p. 215° C., is thereby obtained.

reactant | 1-methyl-3-piperidinecarboxylic acid hydrochloride | Cl.CN1CC(CCC1)C(=O)O
reactant | ethyl 3-(2,6-dimethylpiperidino)propionate hydrochloride | 12.5 g | Cl.CC1N(C(CCC1)C)CCC(=O)OCC
reactant | hydrochloric acid | 6N, 35 cc | Cl | ClH
product | 3-(2,6-Dimethylpiperidino)propionic acid hydrochloride | Cl.CC1N(C(CCC1)C)CCC(=O)O | InChI=1S/C10H19NO2.ClH/c1-8-4-3-5-9(2)11(8)7-6-10(12)13;/h8-9H,3-7H2,1-2H3,(H,12,13);1H
